US04472305
Solutions of leucine (90.0 mmole.) in dimethylformamide (150 ml.) and potassium hydroxide (90.0 mmole.) in water (25 ml.) were combined and chilled in an ice-salt bath. A chilled mixture of BocDTrpOSu (89.7 mmole.) in dimethylformamide (100 ml.) was then added. The mixture was stirred for one hour at the ice-salt bath temperature, allowed to warm to room temperature overnight, and distributed between aqueous citric acid (5%) and ether. The aqueous layer was extracted twice more with ether. The ethereal extracts were combined and dried over magnesium sulfate. The product precipitated from the ether onto the drying agent. Ether was removed from the mixture. Extraction of the solids with methanol, removal of the methanol and recrystallization of the residue from methanol-water afforded BocDTrp-LeuOH in 74% yield (27.85 g., m.r. 187°-190° C.).

reactant | leucine | 90.0 mmole | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | potassium hydroxide | 90.0 mmole | [OH-].[K+]
reactant | BocDTrpOSu | 89.7 mmole | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H23N3O6
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 25 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | BocDTrp-LeuOH | 74% yield | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C22H31N3O5
